US08211513B2
5.20 g (15.0 mmol) of 5-ethyl-2-[3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]tetrahydropyran are initially introduced in 35 ml of THF together with 6.93 g (15.0 mmol) of 5-((4-bromo-2,6-difluorophenyl)-difluoromethoxy)-1,3-difluoro-2-(trifluoromethyl)benzene. 590 mg (0.75 mmol) of bis(tri-o-tolylphosphine)palladium(II) chloride and 0.1 ml (0.75 mmol) of triethylamine are added. The mixture is heated to 50° C., and a solution of 2.41 g (24.0 mmol) of potassium hydrogencarbonate in 15 ml of water is added. After 3 h at this temperature, water and MTBE are added, and the organic phase is separated off. The aqueous phase is washed with MTBE, and the combined organic phases are washed with saturated sodium chloride solution and dried using sodium sulfate. The solution is concentrated to dryness, and the crude product is purified by column chromatography (SiO2, n-heptane:toluene=1:1). The further purification is carried out by recrystallisation from ethanol and n-heptane, giving 2-{4′-[(3,5-difluoro-4-trifluoromethylphenoxy)difluoromethyl]-2,3′,5′-trifluorobiphenyl-4-yl}-5-ethyltetrahydropyran as a colourless solid having an m.p. of 90° C.

reactant | 5-ethyl-2-[3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]tetrahydropyran | 15.0 mmol, 5.20 g | C(C)C1CCC(OC1)C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C19H28BFO3
reactant | 5-((4-bromo-2,6-difluorophenyl)-difluoromethoxy)-1,3-difluoro-2-(trifluoromethyl)benzene | 15.0 mmol, 6.93 g | BrC1=CC(=C(C(=C1)F)C(OC=1C=C(C(=C(C1)F)C(F)(F)F)F)(F)F)F | C14H4BrF9O
reactant | triethylamine | 0.75 mmol, 0.1 ml | C(C)N(CC)CC | C6H15N
reactant | potassium hydrogencarbonate | 24.0 mmol, 2.41 g | C(O)([O-])=O.[K+]
solvent | THF | 35 ml | C1CCOC1 | C4H8O
solvent | water | 15 ml | O | H2O
catalyst | bis(tri-o-tolylphosphine)palladium(II) chloride | 0.75 mmol, 590 mg | CC1=C([P](C2=C(C)C=CC=C2)([Pd]([P](C3=C(C)C=CC=C3)(C4=C(C)C=CC=C4)C(C=CC=C5)=C5C)(Cl)Cl)C6=C(C)C=CC=C6)C=CC=C1
solvent | MTBE | CC(C)(C)OC | C5H12O
product | 2-{4′-[(3,5-difluoro-4-trifluoromethylphenoxy)difluoromethyl]-2,3′,5′-trifluorobiphenyl-4-yl}-5-ethyltetrahydropyran | FC=1C=C(OC(C2=C(C=C(C=C2F)C2=C(C=C(C=C2)C2OCC(CC2)CC)F)F)(F)F)C=C(C1C(F)(F)F)F | C27H20F10O2
